### ISSUE TITLE
`apply` introduces metavariables which are not reachable from the tactic state

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#1307]
MWE below. The relevant line is `apply Eq.refl`, which closes the goal but generates two `anonymous` unassigned metavariables that are not reported as goals. In general, is it the case that any unassigned metavariable introduced by a tactic must occur in one of the reported goals?

```lean
import Lean

open Lean Lean.Meta

elab "show_unassigned_mvars" : tactic => do
  for (mvarId, mdecl) in (← getMCtx).decls.toList do
    unless ← isExprMVarAssigned mvarId <||> isMVarDelayedAssigned mvarId do
      trace[debug] "{mdecl.userName} ({mvarId.name}) : {← instantiateMVars mdecl.type}"

inductive All (P : α → Prop) : List α → Prop where
  | none : All P []
  | more {x xs} : P x → All P xs → All P (x :: xs)

axiom weaken {α} (P Q : α → Prop) (wk : ∀ x, P x → Q x) (xs : List α)
  (h : All P xs) : All Q xs

set_option trace.debug true in
theorem in_self' : All (· ∈ []) (@List.nil α) := by
  apply weaken
  show_unassigned_mvars
  /-
  wk (_uniq.2584) : ∀ (x : α), ?P x → x ∈ []
  P (_uniq.2582) : α → Prop
  h (_uniq.2586) : All ?P []
  -/
  case h =>
    apply weaken
    show_unassigned_mvars
    /-
    wk (_uniq.2584) : ∀ (x : α), ?P x → x ∈ []
    h (_uniq.2606) : All ?P []
    P (_uniq.2582) : α → Prop
    wk (_uniq.2604) : ∀ (x : α), ?P x → ?P x
    P (_uniq.2602) : α → Prop
    -/
    . intros
      show_unassigned_mvars
      /-
      wk (_uniq.2584) : ∀ (x : α), ?P x → x ∈ []
      wk (_uniq.2614) : ?P _uniq.2612
      h (_uniq.2606) : All ?P []
      P (_uniq.2582) : α → Prop
      P (_uniq.2602) : α → Prop
      -/
      apply Eq.refl -- !!
      show_unassigned_mvars
      /-
      [anonymous] (_uniq.2624) : (x : α) → ?m.2623 x
      wk (_uniq.2584) : ∀ (x : α), ?m.2624 x = ?m.2624 x → x ∈ []
      [anonymous] (_uniq.2623) : α → Sort ?u.2616
      h (_uniq.2606) : All ?P []
      P (_uniq.2602) : α → Prop
      -/
    . sorry
    . sorry
  case wk =>
    sorry
```

### Versions

nightly-2022-07-13

**Comment by gebner** [comment]
That's perfectly fine, tactics are allowed to call `mkFreshExprMVar` and then forget about the created metavariable.  Nothing bad will happen (except for a little extra memory use).  In particular, it won't cause the proof to fail mysteriously.  (And indeed your proof goes "through" if you help the unifier a little to solve the HO problem by writing `show ∀ x, x = x → x ∈ []` before the last sorry.)

The kind of unreachable metavariable which is forbidden is another one: namely if `?m` is not reachable from the new goals, but only from the old goals (under the new metavariable assignment).  (Easiest example: `setGoals []`)  In this case, you'll get a nasty surprise at the end of the proof when you think you're done but Lean complains about the proof still containing a metavariable.

**Comment by JLimperg** [comment]
I see. Thanks for clarifying, I understand the invariants better now.
